US08304539B2
Synthesis of 4-(ethyl(methyl)carbamoyl)-3-fluorophenylboronic acid
N-Methylethanamine (1.5 mL, 17.46 mmol) was added to a DMF (10 mL) solution (sonicated to help dissolve) of 4-borono-2-fluorobenzoic acid (1.13 g, 6.14 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (2.54 g, 6.68 mmol). After 3 h at room temperature, saturated NH4Cl (50 mL) and water (10 mL) were added. The mixture was acidified to pH 3 with concentrated HCl (˜0.5 mL). The mixture was extracted with ethyl acetate (3×50 mL). The combined extracts were washed with brine (5 mL), dried (MgSO4) and concentrated to give a thick brown oil, which was treated with water (7 mL) and allowed to stand overnight. The white needles were removed by filtration. The filtrate was purified by reverse phase HPLC (Sunfire S10 30×250 mm column, 30-50% solvent B gradient) to give the expected product as white glassy solid (1.1036 g, 80% yield). LC retention time: 2.49 min (analytical HPLC Method A).

reactant | N-Methylethanamine | 17.46 mmol, 1.5 mL | CNCC | C3H9N
reactant | 4-borono-2-fluorobenzoic acid | 6.14 mmol, 1.13 g | B(O)(O)C1=CC(=C(C(=O)O)C=C1)F | C7H6BFO4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 6.68 mmol, 2.54 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
reactant | HCl | ˜0.5 mL | Cl | ClH
solvent | water | 7 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(ethyl(methyl)carbamoyl)-3-fluorophenylboronic acid | 1.1036 g, 80% yield | C(C)N(C(=O)C1=C(C=C(C=C1)B(O)O)F)C | C10H13BFNO3
